US07671058B2
Preparation of 4-[4-nitro-2-(trifluoromethyl)phenyl]morpholine
A mixture of 1-fluoro-4-nitro-2-(trifluoromethyl)benzene (1 g, 4.782 mmol), morpholine (0.46 ml, 5.260 mmol), diisopropylethylamine (1.25 ml, 7.173 mmol) and acetonitrile (10 ml) was refluxed for 8 hours. Water was added to the residue obtained by evaporation of the solvent under reduced pressure. The precipitated crystal was collected by filtration to give the title compound (1.2 g, 91%) as a yellow crystal.

reactant | 1-fluoro-4-nitro-2-(trifluoromethyl)benzene | 4.782 mmol, 1 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F4NO2
reactant | morpholine | 5.260 mmol, 0.46 ml | N1CCOCC1 | C4H9NO
reactant | diisopropylethylamine | 7.173 mmol, 1.25 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | Water | O | H2O
product | 4-[4-nitro-2-(trifluoromethyl)phenyl]morpholine | 1.2 g, 91% | [N+](=O)([O-])C1=CC(=C(C=C1)N1CCOCC1)C(F)(F)F | C11H11F3N2O3
